US07825264B2
b) 2-Amino-1-phenyl-2-pyridin-2-ylethanol
25.3 g of 1-phenyl-2-pyridin-2-ylethane-1,2-dione 2-oxime were dissolved in 300 ml of ethanol and, after addition of 1.0 g of platinum oxide, hydrogenated under atmospheric pressure until no further hydrogen was taken up. Filtration and concentration of the solution resulted in 21.6 g of 2-amino-1-phenyl-2-pyridin-2-ylethanol as mixture of 2 diastereomers.

reactant | 1-phenyl-2-pyridin-2-ylethane-1,2-dione 2-oxime | 25.3 g | C1(=CC=CC=C1)C(C(=NO)C1=NC=CC=C1)=O | C13H10N2O2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 300 ml | C(C)O | C2H6O
catalyst | platinum oxide | 1.0 g | [Pt]=O
product | 2-Amino-1-phenyl-2-pyridin-2-ylethanol | NC(C(O)C1=CC=CC=C1)C1=NC=CC=C1 | C13H14N2O
